test .probe i(dev)

Vcc 1 0 1
RC 1 c 100
vbb 2 0 1
RB 2 b 300

vee e 0 0

Q1 c b e nbipmod
.model nbipmod npn


.subckt pbip c b e s
Q1 c b e s pbipmod
.model pbipmod pnp
.ends

Vcc1 11 0 -1
RC1 11 c1 100
vbb1 12 0 -1
RB1 12 b1 300
vee1 e1 0 0
vss1 s1 0 0

X1 c1 b1 e1 s1  pbip

*.probe i(x1) i(q1)
.probe p(Q1) p(X1)

.control
*op
dc vbb 0 2 0.01
settype power q1:power
plot q1:power
display
quit
.endc

.end

